US07893267B2
7.6 g (50 mmol) of 4-nitro-ortho-phenylenediamine was dissolved were dissolved in 100 mL of ethanol and 20 mL of H2O. 7.9 g (75 mmol) of BrCN was added in one portion to this stirring solution, and the resulting mixture was heated under reflux for 1.0 h. The reaction mixture was cooled to room temperature, concentrated to 20 mL then neutralized with saturated NaHCO3 solution to pH 8, and resulting solid 5-nitro-1H-benzoimidazol-2-ylamine collected via filtration was used directly in the next step without further purification.

reactant | 4-nitro-ortho-phenylenediamine | 50 mmol, 7.6 g | [N+](=O)([O-])C1=CC(=C(C=C1)N)N | C6H7N3O2
reactant | BrCN | 75 mmol, 7.9 g | BrC#N | CBrN
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | H2O | 20 mL | O | H2O
product | 5-nitro-1H-benzoimidazol-2-ylamine | [N+](=O)([O-])C1=CC2=C(NC(=N2)N)C=C1 | C7H6N4O2
